US05362742
A mixture of 3,4-dimethoxycinnamoyl chloride (678 mg), 3-amino-4-(2-chlorophenyl)-l,6,8-trimethyl-2(1H)quinolone (511 mg), pyridine (0.28 ml) and THF (10 ml) was stirred at room temperature for four days. Then, the mixture was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4). The solvent was removed and the residue was purified by a silica gel chromatography with benzene-acetone (4:1) to give crystals of 4-(2-chlorophenyl)-3-(3,4-dimethoxycinnamoylamino)-1,6,8-trimethyl-2(1H)-quinolone hydrate (510 mg, 65.6%). The crystals were recrystallized from ethanol to afford colorless prisms.

reactant | 3,4-dimethoxycinnamoyl chloride | 678 mg | COC=1C=C(C=CC(=O)Cl)C=CC1OC | C11H11ClO3
reactant | 3-amino-4-(2-chlorophenyl)-l,6,8-trimethyl-2(1H)quinolone | 511 mg | NC=1C(N(C2=C(C=C(C=C2C1C1=C(C=CC=C1)Cl)C)C)C)=O | C18H17ClN2O
reactant | pyridine | 0.28 ml | N1=CC=CC=C1 | C5H5N
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(2-chlorophenyl)-3-(3,4-dimethoxycinnamoylamino)-1,6,8-trimethyl-2(1H)-quinolone hydrate | 510 mg, 65.6% | O.ClC1=C(C=CC=C1)C1=C(C(N(C2=C(C=C(C=C12)C)C)C)=O)NC(C=CC1=CC(=C(C=C1)OC)OC)=O | InChI=1S/C29H27ClN2O4.H2O/c1-17-14-18(2)28-21(15-17)26(20-8-6-7-9-22(20)30)27(29(34)32(28)3)31-25(33)13-11-19-10-12-23(35-4)24(16-19)36-5;/h6-16H,1-5H3,(H,31,33);1H2
